US06753322B2
6-[(2,2-Diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-N-{2-[({[1-(2-pyridinyl)-4-piperidinyl]amino}carbonyl)amino]ethyl}-9H-purine-2-carboxamide
To a solution of 9-{(3aR,4R,6S,6aS)-6-[(ethylamino)carbonyl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}-6-[(2,2-diphenylethyl)amino]-N-{2-[({[1-(2-pyridinyl)-4-piperidinyl]amino}carbonyl)amino]ethyl}-9H-purine-2-carboxamide (Preparation 71) (20.9 g, 0.0255 moles) in absolute ethanol (200 ml) was added aqueous hydrochloric acid (76.5 ml of a 1M solution, 0.0765 moles) and the resultant solution was heated at 60-65° C. for 24 hours. The reaction mixture was allowed to cool to ambient temperature and saturated aqueous sodium bicarbonate solution (200 ml) was cautiously added. The resultant mixture was then concentrated in vacuo and the aqueous mixture was then extracted with ethyl acetate (200 ml) and then dichloromethane (200 ml). The extracts were dried over anhydrous magnesium sulphate which caused the deposition of a gum that was redissolved by the addition of dichloromethane (100 ml) and methanol (20 ml). The resultant violet solution was then concentrated in vacuo to give the crude product as a purple foam (20.86 g) that was purified by flash chromatography on silica gel (600 g) eluting with a gradient of 6% v/v methanol in dichloromethane changing to 8% v/v methanol in dichloromethane changing to 10% v/v methanol in dichloromethane changing to 15% v/v methanol in dichloromethane to give the title compound in several fractions of varying purity. The major fraction (11.4 g) was dissolved in dichloromethane (264 ml) and was filtered to remove insoluble matter To this solution was added diethyl ether (112 ml) and the resultant cloudy mixture was stirred at ambient temperature for 1 hour. The solids were then collected by filtration and were dried in vacuo. This material was then ground using a pestle and mortar and was dried further in vacuo at 50° to give the title compound (9.9 g) as a fine colourless powder.

reactant | 9-{(3aR,4R,6S,6aS)-6-[(ethylamino)carbonyl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}-6-[(2,2-diphenylethyl)amino]-N-{2-[({[1-(2-pyridinyl)-4-piperidinyl]amino}carbonyl)amino]ethyl}-9H-purine-2-carboxamide | 0.0255 moles, 20.9 g | C(C)NC(=O)[C@H]1O[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C1=NC(=NC(=C1N=C2)NCC(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)NCCNC(=O)NC2CCN(CC2)C2=NC=CC=C2 | C43H51N11O6
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 6-[(2,2-Diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-N-{2-[({[1-(2-pyridinyl)-4-piperidinyl]amino}carbonyl)amino]ethyl}-9H-purine-2-carboxamide | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)NCCNC(=O)NC1CCN(CC1)C1=NC=CC=C1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C(=O)NCC)C1=CC=CC=C1 | C40H47N11O6
